US07429598B2
To a stirred solution of 8′-fluoro-5′-methoxy-1′H-spiro[cyclohexane-1,4′-quinazolin]-2′(3′H)-one (2.34 g, 8.84 mmol) in DCM (250 mL) at 0 to 5° C. was added boron tribromide (11.07 g, 44.2 mmol) dropwise over 20 minutes under N2. The mixture was stirred at 5° C. for 10 mins and gradually allowed to warm up to ambient temperature. Stirring was continued at ambient temperature for 18 h and a further portion of BBr3 (5 g, 20 mmol) was added. The mixture was left to stir for a further 24 hours and quenched with saturated NaHCO3 solution (500 mL) at 10° C. over 30 minutes. The mixture was stirred at ambient temperature for 1 hour and the aqueous layer was separated from dichloromethane and extracted with ethyl acetate (2×500 mL). The organic layers were washed with saturated NaHCO3 solution (200 mL), water (300 mL), dried over anhydrous MgSO4, filtered and concentrated in vacuo at 40° C. to give the crude product. The crude material was slurred in tert-butylmethylether (10 mL) at 18 to 20° C. for 5 minutes, filtered and dried in vacuo at 40° C. to give 8′-fluoro-5′-hydroxy-1′H-spiro[cyclohexane-1,4′-quinazolin]-2′(3′H)-one (1.5 g, 68%) as a light-brown solid, purity (99.9%).

reactant | 8′-fluoro-5′-methoxy-1′H-spiro[cyclohexane-1,4′-quinazolin]-2′(3′H)-one | 8.84 mmol, 2.34 g | FC=1C=CC(=C2C3(NC(NC12)=O)CCCCC3)OC | C14H17FN2O2
reactant | boron tribromide | 44.2 mmol, 11.07 g | B(Br)(Br)Br | BBr3
reactant | BBr3 | 20 mmol, 5 g | B(Br)(Br)Br | BBr3
solvent | DCM | 250 mL | C(Cl)Cl | CH2Cl2
solvent | tert-butylmethylether | 10 mL | C(C)(C)(C)OC | C5H12O
product | 8′-fluoro-5′-hydroxy-1′H-spiro[cyclohexane-1,4′-quinazolin]-2′(3′H)-one | 1.5 g, 68% | FC=1C=CC(=C2C3(NC(NC12)=O)CCCCC3)O | C13H15FN2O2
